US05977105
g) 1-(3'-Acetylbiphenyl-4-yl)-5-(3-pyridyl)-3-pentanol
A solution of 1-(3'-acetylbiphenyl-4-yl)-5-(3-pyridyl)pent- 1-yn-3-ol (0.7 g) in absolute ethanol (20 ml) was hydrogenated for 24 hours at 1.2 atmospheres using palladium on carbon (10%, 0.1 g) as catalyst. The reaction mixture was filtered through Celite® and the residue washed with ethanol. The combined filtrate and washings were concentrated under reduced pressure. The residue was purified by column chromatography over silica eluting with dichloromethane:methanol (97:3) to give the title compound as a colourless oil (0.25 g).

reactant | 1-(3'-acetylbiphenyl-4-yl)-5-(3-pyridyl)pent- 1-yn-3-ol | 0.7 g | C(C)(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)C#CC(CCC=1C=NC=CC1)O | C24H21NO2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
product | 1-(3'-Acetylbiphenyl-4-yl)-5-(3-pyridyl)-3-pentanol | 0.25 g | C(C)(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)CCC(CCC=1C=NC=CC1)O | C24H25NO2
